US09145415B2
To a suspension of 2-fluoronitrobenzene (197 mg) and potassium carbonate (193 mg) in acetonitrile (4 mL), 1,3-cyclohexanediamine (480 mg) was added at room temperature, and the mixture was stirred for 10 hours and 30 minutes under reflux by heating. The reaction mixture was cooled to room temperature, and then ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 80% ethyl acetate in methanol) to obtain N1-(2-nitrophenyl)cyclohexane-1,3-diamine (C41, 162 mg).

reactant | 2-fluoronitrobenzene | 197 mg | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-cyclohexanediamine | 480 mg | C1(CC(CCC1)N)N | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | N1-(2-nitrophenyl)cyclohexane-1,3-diamine | 162 mg | [N+](=O)([O-])C1=C(C=CC=C1)NC1CC(CCC1)N | C12H17N3O2
